US06852755B1
(ii) 3,5-difluoro-4-[bis(2-hydroxypropyl)amino]benzoic acid
A solution of the 3,5-difluoro-4-[bis(2-hydroxypropyl)amino]benzonitrile and NaOH (8 g, 0.2 mol) in aqueous ethanol (100 ml, 50%) was refluxed for 2.5 hours. The solution was partitioned between EtOAc (1.2 1) and HCl (500 ml, 0.4 M), the aqueous layer washed with EtOAc (3×240 ml), the combined organic layers dried (MgSO4) and evaporated to dryness. The residue was chromatographed using CH2Cl2-EtOH-ACOH as eluent.

reactant | 3,5-difluoro-4-[bis(2-hydroxypropyl)amino]benzonitrile | FC=1C=C(C#N)C=C(C1N(CC(C)O)CC(C)O)F | C13H16F2N2O2
reactant | NaOH | 0.2 mol, 8 g | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 3,5-difluoro-4-[bis(2-hydroxypropyl)amino]benzoic acid | FC=1C=C(C(=O)O)C=C(C1N(CC(C)O)CC(C)O)F | C13H17F2NO4
